Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Fever
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ w/ HTN, DM, s/p radical cystoprostatectomy with ileal
conduit for bladder carcinoma, now w/ pelvic and thoracic
recurrence, on C2D5 Gemcitabine/CIsplatin. 

Hx of recurrent urosepsis:
___ - p/w severe, limiting fatigue, and ultimately rigors
and fevers to 103. found to have a MDR E.Coli UTI and was 
treated
with a 10 day course of IV antibiotics
___ - admitted with urosepsis  EColi/klebsiella in urine,
ecoli in blood.  completed a 14-day course as scheduled, last
dose on ___ of ertapenem with removal
of PICC line at that time.
___ - saw Dr. ___ ___ who recommended weekly fosfomycin
suppressive therapy.
He has very little antecedent symptoms before he becomes
substantially ill.

Has been feeling generally well and eating better. Yesterday
(___) suddenly felt tired, fever of 102.7 and not feeling well.
went to ED, wait was too long so he took tylenol and went home.
profoundly fatigued. At home, he had episodes of chills and
sweats and took continuous Tylenol throughout the night.  

___ ___ clinic with Dr. ___. Attempt to direct admit, but no
beds so sent to ED.

In the ED:
 initial vitals:  BP: 102/59.  low for this patient.
Heart Rate: 80. O2 Saturation%: 99. Weight: 179. Height: 70.5.
BMI: 25.3. Temperature: 97.8.

- Exam notable for looking surprisingly well.

 - Labs were notable for:  
WBC 7.9, 80% PMN  (down from 9.2)
Lactic acid 2.8
Bun/Cr 40/1.8 (recent values ___ 46/1.6, ___
 
 - Imaging:   
 CXR: No acute cardiopulmonary abnormality. 

 - Patient was given:  no antibiotics pending urine sample

Decision to admit to ___ for UTI/urosepsis

On arrival to the floor,  pt reports feeling generally well.
tired and feels like a fever is coming on. quite hungry. Similar
symptoms to prior episodes but per daughter looks much better
than previously. 

He reports no obvious change in urine recently. no foul smell.

Denies any cough/sputum/sob, no rash, no headache/neck pain

After initial exam, developed some RUQ abd pain after he ate a
sandwich, steady ___, which resolved spontaneously after 10
minutes. abd exam unremarkable.

REVIEW OF SYSTEMS:
10 point ROS reviewed in detail and negative except for what is
mentioned above in HPI

PAST ONCOLOGIC HISTORY (per OMR):
Mr. ___ has a ___ year history of chronic self catheterization
secondary to injury from agent orange exposure. About 2 or ___
years ago, he began developing hematuria, including large clots
that would block his catheter. He saw his urologist and reports 
a
normal report. In ___ or ___, however, he
developed very heavy hematuria while residing in ___. He
underwent CT imaging which revealed a 6 cm mass in the bladder,
with biopsy confirming bladder carcinoma. He returned to ___
at the end of ___ and was seen by urology with radical
cystoprostatectomy on ___ notable for 6.5 x 3.5 x 3.0cm high
grade urothelial ca, a separate focus of papillary transitional
cell, and right lobe of prostate ___ 3+4 prostate cancer,
with 2 positive lymph nodes (right obturator lymph node, left
obturator lymph node). 

During a ___ admission, CT A&P revealed an abnormal left pelvic
sidewall soft tissue, potentially evidence of metastatic 
disease.
He also had biopsy of a paraesophageal node which was consistent
with metastatic bladder cancer.

 - ___ C1D1 Gemcitabine/Cisplatin  
 - ___- cycle interrupeted on ___ due to UTI and sepsis  
 - ___: completed 10 days of XRT to pelvic sidewall which
has improved pain
 
Past Medical History:
bladder cancer as above
agent orange exposure 
hypertension
dyslipidemia
DM
recurrent urosepsis
hydronephrosis on left - had a nephrostomy tube back in ___
 
Social History:
___
Family History:
His parents died of cancer of unknown primary
 
Physical Exam:
ADMISSION EXAM:
VITAL SIGNS: afeb 158/63 48 16 100% RA
General:  NAD, Resting in bed comfortably, looks well
HEENT:  MM dry, no OP lesions, no cervical/supraclavicular
adenopathy
CV:  RR, NL S1S2 no S3S4 No MRG
PULM:  CTAB, No C/W/R, No respiratory distress
ABD:  BS+, soft, NTND, no palpable masses or HSM, urostomy
revealed clear yellow urine 
LIMBS: WWP, no ___, no tremors
SKIN:  No rashes on the extremities
NEURO:  Grossly normal

DISCHARE EXAM:
VITALS: Afebrile and vital signs stable  
98.5
PO 144 / 73
R Sitting 43 16 100 RA 
GENERAL: NAD, sitting comfortably in bed
EYES: PERRL, anicteric sclerae
ENT: OP clear
CV: RRR, nl S1, S2, no M/R/G, no JVD
RESP: CTAB, no crackles, wheezes, or rhonchi
GI: + BS, soft, NT, ND, no rebound/guarding, no HSM; ileal
conduit draining yellow urine; urostomy site clean without
erythema/tenderness
GU: No suprapubic fullness or tenderness to palpation
SKIN: No rashes or ulcerations noted
NEURO: AOx3, CN II-XII intact, ___ strength in all extremities,
sensation grossly intact throughout, gait testing deferred
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
UA (clean cath from ostomy): trace blood, neg nit, mod ___, 30 
prot, 3 RBCs, 7 WBCs, few bacteria, 0 epis

UCx (___): negative
BCx (___): pending x2, no growth at the time of discharge on 
___

CXR (___):
No PNA or pulmonary edema

Renal US
IMPRESSION: 
1. Persistent mild fullness of the left renal collecting system, 
unchanged 
since ___. 
2. Atrophic right kidney without hydronephrosis. 

ADMISSIOn LABS

___ 11:10AM BLOOD WBC-7.0 RBC-3.03* Hgb-8.0* Hct-26.1* 
MCV-86 MCH-26.4 MCHC-30.7* RDW-16.8* RDWSD-53.1* Plt ___
___ 05:00PM BLOOD WBC-7.9 RBC-3.25* Hgb-8.7* Hct-28.8* 
MCV-89 MCH-26.8 MCHC-30.2* RDW-16.9* RDWSD-54.8* Plt ___
___ 11:10AM BLOOD Neuts-83.8* Lymphs-6.1* Monos-6.7 Eos-2.1 
Baso-0.6 Im ___ AbsNeut-5.86 AbsLymp-0.43* AbsMono-0.47 
AbsEos-0.15 AbsBaso-0.04
___ 05:00PM BLOOD Neuts-79.6* Lymphs-7.2* Monos-9.6 Eos-2.3 
Baso-0.4 Im ___ AbsNeut-6.30* AbsLymp-0.57* AbsMono-0.76 
AbsEos-0.18 AbsBaso-0.03
___ 11:10AM BLOOD Plt ___
___ 05:00PM BLOOD ___ PTT-28.1 ___
___ 11:10AM BLOOD UreaN-40* Creat-1.8* Na-134 K-4.6 Cl-100 
HCO3-20* AnGap-14
___ 05:00PM BLOOD Glucose-284* UreaN-44* Creat-1.8* Na-133 
K-6.6* Cl-98 HCO3-18* AnGap-17*
___ 07:00AM BLOOD ALT-13 AST-7 AlkPhos-60 TotBili-0.2
___ 07:00AM BLOOD Iron-26*

DISCHARGE LABS

___ 06:57AM BLOOD WBC-7.6 RBC-2.89* Hgb-7.6* Hct-25.0* 
MCV-87 MCH-26.3 MCHC-30.4* RDW-17.2* RDWSD-54.4* Plt ___
___ 07:00AM BLOOD Neuts-73.3* Lymphs-13.3* Monos-8.8 
Eos-3.2 Baso-0.5 Im ___ AbsNeut-4.84 AbsLymp-0.88* 
AbsMono-0.58 AbsEos-0.21 AbsBaso-0.03
___ 06:57AM BLOOD Glucose-147* UreaN-35* Creat-1.5* Na-145 
K-5.2* Cl-104 HCO3-24 AnGap-17
___ 07:00AM BLOOD ALT-13 AST-7 AlkPhos-60 TotBili-0.2
___ 07:00AM BLOOD Iron-26*
___ 07:00AM BLOOD calTIBC-207* Ferritn-189 TRF-159*
 
Brief Hospital Course:
___ w/ HTN, DM on insulin, s/p radical cystoprostatectomy with 
ileal conduit for bladder carcinoma, now w/ pelvic and thoracic 
recurrence (C2D5 Gemcitabine/CIsplatin, recent XRT to L 
pelvicsidewall), recurrent urosepsis (on fosfomycin suppression) 
p/w fever, now resolved.

# Fever: 
Initially suspected Etiology was most likely urinary in context 
of prior UTIs, absence of other localizing symptoms, although no 
leukocytosis and appeared well. Has significant hx of MDR 
organisms, last E.coli treated with meropenem/ertapenem. Of 
note, he recently initiated weekly suppressive fosfomycin, last 
dose on the day of admission. On admission he was started on 
meropenem empirically prior microbiology. He remained afebrile 
while hospitalized. Urine cultures were negative. Blood cultures 
negative to date. No fever or WBC noted in the hospital. ID was 
consulted for assistance with antibiotic management given 
negative cultures recommended stopping meropenem on ___ and 
monitored for another 36 hours without antibiotics. A follow up 
renal Us showed unchanged left sided hydronephrosis. Per ID he 
could be discharged without any further abx and needs to 
continue suppressive dose of fosphomycin weekly. and He should 
follow up with his outpatient infectious disease specialist, Dr. 
___.

# CKD stage III:
B/l Cr ~1.5. Approximately at baseline on admission after 
fluids. Discharge Cr stable.

# Metastatic Bladder Cancer: He was continued on his home 
oxycontin, oxycodone, and bowel regimen. He will f/u with his 
outpatient oncologist Dr. ___.

# HTN: Home losartan and amlodipine were held on admission in 
setting of concern for infection. But restarted. K is 5.2 on day 
of discharge, recommend checking BMP in a few days to monitor K.

# DM: Home glipizide was held on admission. Lantus 20u daily was 
continued with an insulin sliding scale. glipizide resumed on 
discharge. 

TRANSITIONAL ISSUES:
[ ] repeat BMP in a few days on follow up K
[ ] f/u with infectious disease regarding changes to suppressive 
antibiotic regimen
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
2. Aspirin 81 mg PO DAILY 
3. Docusate Sodium 100 mg PO BID:PRN constipation 
4. Omeprazole 20 mg PO BID 
5. Ondansetron 8 mg PO Q8H:PRN nausea/vomiting 
6. OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - Moderate 

7. OxyCODONE SR (OxyconTIN) 10 mg PO Q12H 
8. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
9. Senna 17.2 mg PO BID:PRN constipation 
10. amLODIPine 5 mg PO DAILY 
11. Atorvastatin 40 mg PO QPM 
12. Losartan Potassium 75 mg PO DAILY 
13. GlipiZIDE 5 mg PO BID 
14. Fosfomycin Tromethamine 3 g PO 1X/WEEK (WE) 
15. Glargine 20 Units Breakfast

 
Discharge Medications:
1.  Glargine 20 Units Breakfast 
2.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
3.  amLODIPine 5 mg PO DAILY  
4.  Aspirin 81 mg PO DAILY  
5.  Atorvastatin 40 mg PO QPM  
6.  Docusate Sodium 100 mg PO BID:PRN constipation  
7.  Fosfomycin Tromethamine 3 g PO 1X/WEEK (WE)  
8.  GlipiZIDE 5 mg PO BID  
9.  Losartan Potassium 75 mg PO DAILY  
10.  Omeprazole 20 mg PO BID  
11.  Ondansetron 8 mg PO Q8H:PRN nausea/vomiting  
12.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - 
Moderate  
13.  OxyCODONE SR (OxyconTIN) 10 mg PO Q12H  
14.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
15.  Senna 17.2 mg PO BID:PRN constipation  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
fevers, however cultures and UTI have been ruled out

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear. Mr. ___,
You were admitted due to concern for another UTI and initially 
started on antibiotics. However your cultures were all negative 
and we stopped any further antibiotics.
Please follow up with doctors as already ___ and continue 
taking weekly antibiotic to prevent future infections.
Goodluck !
 
Followup Instructions:
___